US05780437
1-(7-azabicyclo[2.2.1]hept-7-yl)-2- {2-(3,5-dimethyl-phenyl)-3-[2-(4-hydroxy-1,1-dimethyl-4-pyridin-4-yl-but-2-enylamino)ethyl]-1H-indol-5-yl}-2-methylpropan-1-one
To a solution of 2-[3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-1-(7-azabicyclo[2.2. 1 ]hept-7-yl)-2-methylpropan-1-one (prepared essentially as described in EXAMPLE 2, 70 mg in 6 mL dry tetrahydrofuran) was added 2 mL of a solution of 86 mg 4-[3-(2-methylpropenyl)oxiranyl]pyridine in tetrahydrofuran followed by 24 mg tetrakis(triphenylphosphine)palladium and the mixture heated to 65 ° C. on an oil bath. After 2 hours, the mixture was cooled to room temperature, concentrated in vacuo. The residue was purified by flash chromatography on silica gel (methylene chloride:methanol, 92:8; then 88:12) to give the title compound (91 mg).

reactant | 2-[3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-1-(7-azabicyclo[2.2. 1 ]hept-7-yl)-2-methylpropan-1-one | NCCC1=C(NC2=CC=C(C=C12)C(C(=O)N1C2CCC1CC2)(C)C)C2=CC(=CC(=C2)C)C | C28H35N3O
reactant | 4-[3-(2-methylpropenyl)oxiranyl]pyridine | 86 mg | CC(=CC1C(O1)C1=CC=NC=C1)C | C11H13NO
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 24 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(7-azabicyclo[2.2.1]hept-7-yl)-2- {2-(3,5-dimethyl-phenyl)-3-[2-(4-hydroxy-1,1-dimethyl-4-pyridin-4-yl-but-2-enylamino)ethyl]-1H-indol-5-yl}-2-methylpropan-1-one | 91 mg | C12CCC(CC1)N2C(C(C)(C)C=2C=C1C(=C(NC1=CC2)C2=CC(=CC(=C2)C)C)CCNC(C=CC(C2=CC=NC=C2)O)(C)C)=O | C39H48N4O2
